US04892732
The 4-methyl-2-morpholino-5-pyrimidinol (D represents methyl) can be prepared by reacting methyl methoxyacetate with sodium hydride in toluene and the product is then reacted with 4-morpholinecarboximidamide sulfate to give 5-methoxy-6-methoxymethyl-2-morpholino-4-pyrimidinol. This latter compound is converted to 4-chloro-5-methoxy-6-methoxymethyl-2-morpholinopyrimidine by reaction with phosphorus oxychloride. The ring chlorine and the methoxy group in the methoxymethyl group are replaced with hydrogen on reduction with zinc in 1 normal NaOH and reaction with sodium ethylmercaptide in dimethylformamide then yields the desired pyrimidinol.

reactant | 4-methyl-2-morpholino-5-pyrimidinol | CC1=NC(=NC=C1O)N1CCOCC1 | C9H13N3O2
reactant | methyl methoxyacetate | COCC(=O)OC | C4H8O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-morpholinecarboximidamide sulfate | S(=O)(=O)(O)O.N1(CCOCC1)C(N)=N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-methoxy-6-methoxymethyl-2-morpholino-4-pyrimidinol | COC=1C(=NC(=NC1COC)N1CCOCC1)O | C11H17N3O4
